US07858619B2
3C: Methyl 2-[4-(4-fluorophenoxy)benzenesulfonyl]-6-[3-(4-methylpiperazin-1-yl)propoxy]-1,2,3,4-tetrahydroisoquinoline-1-carboxylate;
250 mg (0.55 mmol) of methyl 2-[4-(4-fluorophenoxy)benzenesulfonyl]-6-hydroxy-1,2,3,4-tetrahydroisoquinoline-1-carboxlate are dissolved in 5 ml of THF. At room temperature, 216 mg (0.825 mmol) of triphenylphosphine, 142 μl (0.825 mmol) of DEAD and 120 mg (0.825 mmol) of 3-(4-methylpiperazin-1-yl)propan-1-ol are added, and the solution is stirred at room temperature for 18 hours. The solvent is then removed, and the residue is chromatographed on silica gel, allowing the desired product to be isolated as a colorless solid. Yield 76%.

reactant | methyl 2-[4-(4-fluorophenoxy)benzenesulfonyl]-6-hydroxy-1,2,3,4-tetrahydroisoquinoline-1-carboxlate | 0.55 mmol, 250 mg | FC1=CC=C(OC2=CC=C(C=C2)S(=O)(=O)N2C(C3=CC=C(C=C3CC2)O)C(=O)OC)C=C1 | C23H20FNO6S
reactant | triphenylphosphine | 0.825 mmol, 216 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 0.825 mmol, 142 μl | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 3-(4-methylpiperazin-1-yl)propan-1-ol | 0.825 mmol, 120 mg | CN1CCN(CC1)CCCO | C8H18N2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | Methyl 2-[4-(4-fluorophenoxy)benzenesulfonyl]-6-[3-(4-methylpiperazin-1-yl)propoxy]-1,2,3,4-tetrahydroisoquinoline-1-carboxylate | Yield 76% | FC1=CC=C(OC2=CC=C(C=C2)S(=O)(=O)N2C(C3=CC=C(C=C3CC2)OCCCN2CCN(CC2)C)C(=O)OC)C=C1 | C31H36FN3O6S
